### PR TITLE
Cauchy completeness of the Dedekind real numbers

### PR DESCRIPTION
**Pull request by lowasser**
Depends on addition (#1336), so inevitably a long ways off, but this certainly feels like a major step towards real analysis, with the ability to define limits.

### CODE REVIEW

**Comment by lowasser** [comment]
Did some work to use the `let open` syntax and to pull out lemmas, but there's still going to be a lot of very specific, not-particularly-general algebra.  (I _did_ manage to eliminate some redundant steps from the HoTT proof.)

**Comment by lowasser** [comment]
(Filed https://github.com/HoTT/book/issues/1167 just in case anyone cares.)

File: src/real-numbers/positive-real-numbers.lagda.md [hunk 1]
```diff
@@ -0,0 +1,205 @@
...
+open import real-numbers.rational-real-numbers
+open import real-numbers.similarity-real-numbers
+open import real-numbers.strict-inequality-real-numbers
+```
+
+</details>
+
+## Idea
+
+A [real number](real-numbers.dedekind-real-numbers.md) is **positive** if zero
```
Comment (fredrik-bakke) [inline src/real-numbers/positive-real-numbers.lagda.md:47]: concept macro :)
Is there a reason you avoid these?

File: src/real-numbers/positive-real-numbers.lagda.md [hunk 2]
```diff
@@ -0,0 +1,205 @@
...
+
+ℝ⁺ : (l : Level) → UU (lsuc l)
+ℝ⁺ l = type-subtype (subtype-positive-ℝ l)
+
+real-ℝ⁺ : {l : Level} → ℝ⁺ l → ℝ l
+real-ℝ⁺ = pr1
+
+is-positive-real-ℝ⁺ : {l : Level} → (x : ℝ⁺ l) → is-positive-ℝ (real-ℝ⁺ x)
+is-positive-real-ℝ⁺ = pr2
+```
```
Comment (fredrik-bakke) [inline src/real-numbers/positive-real-numbers.lagda.md:70]:
````suggestion
## Definitions

### The positivity predicate on real numbers

```agda
is-positive-prop-ℝ : {l : Level} → ℝ l → Prop l
is-positive-prop-ℝ = le-ℝ-Prop zero-ℝ

is-positive-ℝ : {l : Level} → ℝ l → UU l
is-positive-ℝ x = type-Prop (is-positive-prop-ℝ x)
```

### The type of positive real numbers

```agda
subtype-positive-ℝ : (l : Level) → subtype l (ℝ l)
subtype-positive-ℝ l = is-positive-prop-ℝ {l}

ℝ⁺ : (l : Level) → UU (lsuc l)
ℝ⁺ l = type-subtype (subtype-positive-ℝ l)

real-ℝ⁺ : {l : Level} → ℝ⁺ l → ℝ l
real-ℝ⁺ = pr1

is-positive-real-ℝ⁺ : {l : Level} → (x : ℝ⁺ l) → is-positive-ℝ (real-ℝ⁺ x)
is-positive-real-ℝ⁺ = pr2
```
````

File: src/real-numbers/positive-real-numbers.lagda.md [hunk 3]
```diff
@@ -0,0 +1,205 @@
...
+    elim-exists
+      ( is-positive-prop-ℝ x)
+      ( λ (p , pos-p) p<x →
+        intro-exists p (le-zero-is-positive-ℚ p pos-p , p<x))
+
+exists-ℚ⁺-in-lower-cut-ℝ⁺ :
+  {l : Level} → (x : ℝ⁺ l) →
+  exists ℚ⁺ (λ p → lower-cut-ℝ (real-ℝ⁺ x) (rational-ℚ⁺ p))
+exists-ℚ⁺-in-lower-cut-ℝ⁺ (x , pos-x) =
+  forward-implication (is-positive-iff-exists-ℚ⁺-in-lower-cut-ℝ x) pos-x
```
Comment (fredrik-bakke) [inline src/real-numbers/positive-real-numbers.lagda.md:110]: These definitions should go in the opposite order. Prove `exists-ℚ⁺-in-lower-cut-ℝ⁺` directly and use it to define `is-positive-iff-exists-ℚ⁺-in-lower-cut-ℝ`.

File: src/real-numbers/positive-real-numbers.lagda.md [hunk 4]
```diff
@@ -0,0 +1,205 @@
...
+                ( q -ℚ p)
+                ( r)
+                ( le-transpose-right-add-ℚ
+                  ( q)
+                  ( r)
+                  ( p)
+                  ( tr (le-ℚ q) (commutative-add-ℚ p r) q<p+r))
+                ( r<d) ,
+              inv (is-identity-right-conjugation-add-ℚ p q)))
+    where open do-syntax-trunc-Prop (le-ℝ-Prop x (x +ℝ d))
```
Comment (fredrik-bakke) [inline src/real-numbers/positive-real-numbers.lagda.md:141]: `let open`

File: src/real-numbers/positive-real-numbers.lagda.md [hunk 5]
```diff
@@ -0,0 +1,205 @@
...
+  is-positive-diff-le-ℝ =
+    preserves-le-left-sim-ℝ
+      ( y -ℝ x)
+      ( x -ℝ x)
+      ( zero-ℝ)
+      ( right-inverse-law-add-ℝ x)
+      ( preserves-le-right-add-ℝ (neg-ℝ x) x y H)
+
+  positive-diff-le-ℝ : ℝ⁺ (l1 ⊔ l2)
+  positive-diff-le-ℝ = y -ℝ x , is-positive-diff-le-ℝ
```
Comment (fredrik-bakke) [inline src/real-numbers/positive-real-numbers.lagda.md:184]:
```suggestion
  positive-diff-le-ℝ = (y -ℝ x , is-positive-diff-le-ℝ)
```

File: src/real-numbers/positive-real-numbers.lagda.md [hunk 6]
```diff
@@ -0,0 +1,205 @@
...
+```
+
+### The real embedding of a positive rational number is positive
```
Comment (fredrik-bakke) [inline src/real-numbers/positive-real-numbers.lagda.md:187]:
```suggestion
### Positive rational numbers are positive real numbers
```

File: src/real-numbers/transposition-cuts-dedekind-real-numbers.lagda.md [hunk 7]
```diff
@@ -0,0 +1,179 @@
...
+open import real-numbers.strict-inequality-real-numbers
+```
+
+</details>
+
+## Idea
+
+We derive transposition laws from those for
+[strict inequality](real-numbers.strict-inequality-real-numbers.md) to apply to
+rational numbers in the lower and upper cuts of
```
Comment (fredrik-bakke) [inline src/real-numbers/transposition-cuts-dedekind-real-numbers.lagda.md:36]: link rational number, link lower, upper cuts

File: src/real-numbers/transposition-cuts-dedekind-real-numbers.lagda.md [hunk 8]
```diff
@@ -0,0 +1,179 @@
...
+[Dedekind real numbers](real-numbers.dedekind-real-numbers.md).
+
```
Comment (fredrik-bakke) [inline src/real-numbers/transposition-cuts-dedekind-real-numbers.lagda.md:38]: Maybe you could type out the transposition laws in the idea section, for those that might not already be familiar with them?

File: src/real-numbers/metric-space-of-real-numbers.lagda.md
Comment (fredrik-bakke) [inline src/real-numbers/metric-space-of-real-numbers.lagda.md:1]: Cauchy completeness of the metric space of real numbers can go into a new file `cauchy-completeness-metric-space-of-real-numbers`

File: src/real-numbers/metric-space-of-real-numbers.lagda.md [hunk 9]
```diff
@@ -96,6 +120,40 @@ premetric-leq-ℝ l d x y =
 
 ## Properties
 
+### `x` is in a neighborhood `d` of `y` if `x - d ≤ y ≤ x + d`
```
Comment (fredrik-bakke) [inline src/real-numbers/metric-space-of-real-numbers.lagda.md:123]:
```suggestion
### `x` is in a `d`-neighborhood of `y` if `x - d ≤ y ≤ x + d`
```

File: src/real-numbers/metric-space-of-real-numbers.lagda.md [hunk 10]
```diff
@@ -96,6 +120,40 @@ premetric-leq-ℝ l d x y =
...
+      ( le-transpose-left-add-ℝ
+        ( real-ℚ q)
+        ( real-ℚ d) y
+        ( inv-tr
+          ( λ z → le-ℝ z y)
+          ( add-real-ℚ q d)
+          ( le-real-is-in-lower-cut-ℚ (q +ℚ d) y q+d<y)))
+      ( leq-transpose-right-add-ℝ y x (real-ℚ d) y≤x+d))
+
+neighborhood-±-bound-leq-ℝ :
```
Comment (fredrik-bakke) [inline src/real-numbers/metric-space-of-real-numbers.lagda.md:147]: please find a name without `±`

File: src/real-numbers/metric-space-of-real-numbers.lagda.md [hunk 11]
```diff
@@ -96,6 +120,40 @@ premetric-leq-ℝ l d x y =
...
+  {l : Level} → (d : ℚ⁺) (x y : ℝ l) →
+  leq-ℝ x (y +ℝ real-ℚ (rational-ℚ⁺ d)) →
+  leq-ℝ y (x +ℝ real-ℚ (rational-ℚ⁺ d)) →
+  type-Prop (premetric-leq-ℝ l d x y)
```
Comment (fredrik-bakke) [inline src/real-numbers/metric-space-of-real-numbers.lagda.md:151]: `type-Prop (premetric-leq-ℝ ...` should have a definition: `is-in-neghborhood-leq-ℝ`.

File: src/real-numbers/metric-space-of-real-numbers.lagda.md [hunk 12]
```diff
@@ -96,6 +120,40 @@ premetric-leq-ℝ l d x y =
...
+neighborhood-±-bound-leq-ℝ d x y x≤y+d y≤x+d =
+  is-in-lower-neighborhood-real-bound-leq-ℝ d x y y≤x+d ,
+  is-in-lower-neighborhood-real-bound-leq-ℝ d y x x≤y+d
```
Comment (fredrik-bakke) [inline src/real-numbers/metric-space-of-real-numbers.lagda.md:154]:
```suggestion
  ( is-in-lower-neighborhood-real-bound-leq-ℝ d x y y≤x+d ,
    is-in-lower-neighborhood-real-bound-leq-ℝ d y x x≤y+d)
```

File: src/real-numbers/metric-space-of-real-numbers.lagda.md [hunk 13]
```diff
@@ -263,6 +321,468 @@ is-isometry-metric-space-leq-real-ℚ d x y =
...
+  where
+
+  lower-cut-lim-cauchy-approximation-leq-ℝ : subtype l ℚ
+  lower-cut-lim-cauchy-approximation-leq-ℝ q =
+    ∃
+      ( ℚ⁺ × ℚ⁺)
+      ( λ (ε , θ) →
+        lower-cut-ℝ
+          ( map-cauchy-approximation-leq-ℝ x ε)
+          ( q +ℚ rational-ℚ⁺ (ε +ℚ⁺ θ)))
```
Comment (fredrik-bakke) [inline src/real-numbers/metric-space-of-real-numbers.lagda.md:368]:
```suggestion
    ∃ ( ℚ⁺ × ℚ⁺)
      ( λ (ε , θ) →
        lower-cut-ℝ
          ( map-cauchy-approximation-leq-ℝ x ε)
          ( q +ℚ rational-ℚ⁺ (ε +ℚ⁺ θ)))
```

File: src/real-numbers/metric-space-of-real-numbers.lagda.md [hunk 14]
```diff
@@ -263,6 +321,468 @@ is-isometry-metric-space-leq-real-ℚ d x y =
...
+
+  upper-cut-lim-cauchy-approximation-leq-ℝ : subtype l ℚ
+  upper-cut-lim-cauchy-approximation-leq-ℝ q =
+    ∃
+      ( ℚ⁺ × ℚ⁺)
```
Comment (fredrik-bakke) [inline src/real-numbers/metric-space-of-real-numbers.lagda.md:373]:
```suggestion
    ∃ ( ℚ⁺ × ℚ⁺)
```

File: src/real-numbers/metric-space-of-real-numbers.lagda.md [hunk 15]
```diff
@@ -263,6 +321,468 @@ is-isometry-metric-space-leq-real-ℚ d x y =
...
+  upper-real-lim-cauchy-approximation-leq-ℝ =
+    upper-cut-lim-cauchy-approximation-leq-ℝ ,
+    is-inhabited-upper-cut-lim-cauchy-approximation-leq-ℝ ,
+    is-rounded-upper-cut-lim-cauchy-approximation-leq-ℝ
+
+  abstract
+    is-disjoint-cut-lim-cauchy-approximation-leq-ℝ :
+      (q : ℚ) →
+      ¬
+        ( is-in-subtype lower-cut-lim-cauchy-approximation-leq-ℝ q ×
```
Comment (fredrik-bakke) [inline src/real-numbers/metric-space-of-real-numbers.lagda.md:568]:
```suggestion
      ¬ ( is-in-subtype lower-cut-lim-cauchy-approximation-leq-ℝ q ×
```

File: src/real-numbers/metric-space-of-real-numbers.lagda.md [hunk 16]
```diff
@@ -263,6 +321,468 @@ is-isometry-metric-space-leq-real-ℚ d x y =
...
+                ( ε⁺ , θ'⁺)
+                ( transpose-is-in-upper-cut-add-ℝ xε (ε +ℚ θ') r xε+ε+θ'<r)))))
+
+  is-convergent-cauchy-approximation-leq-ℝ :
+    is-convergent-cauchy-approximation-Metric-Space
+      ( metric-space-leq-ℝ l)
+      ( x)
+  is-convergent-cauchy-approximation-leq-ℝ =
+    lim-cauchy-approximation-leq-ℝ x ,
+    is-limit-lim-cauchy-approximation-leq-ℝ
```
Comment (fredrik-bakke) [inline src/real-numbers/metric-space-of-real-numbers.lagda.md:770]:
```suggestion
    ( lim-cauchy-approximation-leq-ℝ x ,
      is-limit-lim-cauchy-approximation-leq-ℝ)
```

File: src/real-numbers/metric-space-of-real-numbers.lagda.md [hunk 17]
```diff
@@ -263,6 +321,468 @@ is-isometry-metric-space-leq-real-ℚ d x y =
...
+        ( is-in-subtype lower-cut-lim-cauchy-approximation-leq-ℝ q ×
+          is-in-subtype upper-cut-lim-cauchy-approximation-leq-ℝ q)
+    is-disjoint-cut-lim-cauchy-approximation-leq-ℝ q (q<lim , lim<q) =
+      let
+        open do-syntax-trunc-Prop empty-Prop
+      in do
+        (εl⁺@(εl , _) , θl⁺@(θl , _)) , q+εl+θl<xεl ← q<lim
+        (εu⁺@(εu , _) , θu⁺@(θu , _)) , xεu<q-εu-θu ← lim<q
+        let xεl = map-cauchy-approximation-leq-ℝ x εl⁺
+            xεu = map-cauchy-approximation-leq-ℝ x εu⁺
```
Comment (fredrik-bakke) [inline src/real-numbers/metric-space-of-real-numbers.lagda.md:577]: We always prefer shifting to a new line over excessively indenting our code, here

```agda
        let
          xεl = map-cauchy-approximation-leq-ℝ x εl⁺
          xεu = map-cauchy-approximation-leq-ℝ x εu⁺
          ...
```

File: src/real-numbers/metric-space-of-real-numbers.lagda.md [hunk 18]
```diff
@@ -263,6 +321,468 @@ is-isometry-metric-space-leq-real-ℚ d x y =
...
+        intro-exists
+          ( q +ℚ two-ℚ)
+          ( intro-exists
+            ( one-ℚ⁺ , one-ℚ⁺)
+            ( inv-tr
+              ( is-in-upper-cut-ℝ x1)
+              ( is-retraction-right-div-Group group-add-ℚ two-ℚ q)
+              ( x1<q)))
+
+    forward-implication-is-rounded-lower-cut-lim-cauchy-approximation-leq-ℝ :
```
Comment (fredrik-bakke) [inline src/real-numbers/metric-space-of-real-numbers.lagda.md:416]: You tend to formalize a lot of `forward-implication-is-rounded` and `backward-implication-is-rounded`. Could there be better names for these?

**Review by fredrik-bakke — CHANGES_REQUESTED** [review]
Amazing work!

File: src/real-numbers/metric-space-of-real-numbers.lagda.md (hunk 18 above)
Comment (fredrik-bakke) [reply src/real-numbers/metric-space-of-real-numbers.lagda.md]: alright 👍

File: src/real-numbers/cauchy-completeness-metric-space-of-real-numbers.lagda.md
Comment (fredrik-bakke) [inline src/real-numbers/cauchy-completeness-metric-space-of-real-numbers.lagda.md:1]: On second thought, how about calling this file `cauchy-completeness-dedekind-real-numbers`? First off, the `metric-space-of` qualifier seems redundant. Ssecond, it's useful to emphasize it is the completeness of the Dedekind real numbers, as opposed to a file about the real numbers as the cauchy completion of the rational numbers. What do you think?

File: src/real-numbers/transposition-cuts-dedekind-real-numbers.lagda.md [hunk 19]
```diff
@@ -0,0 +1,181 @@
...
+</details>
+
+## Idea
+
+We derive transposition laws from those for
+[strict inequality](real-numbers.strict-inequality-real-numbers.md), that
+`x < y + z ⇔ x - z < y` and `x < y - z ⇔ x + z < y`, to apply to
+[rational numbers](elementary-number-theory.rational-numbers.md) in the lower
+and upper cuts of
+[Dedekind real numbers](real-numbers.dedekind-real-numbers.md).
```
Comment (fredrik-bakke) [inline src/real-numbers/transposition-cuts-dedekind-real-numbers.lagda.md:39]: This sentence is cumbersome to read.
Please start by stating in one or more sentences what the transposition laws look like in the lower and upper cuts of Dedekind real numbers, then, in a separate sentence, you can say something about how it is derived in one or more additional sentences.

File: src/real-numbers/transposition-cuts-dedekind-real-numbers.lagda.md
Comment (fredrik-bakke) [inline src/real-numbers/transposition-cuts-dedekind-real-numbers.lagda.md:1]: `transposition-addition-difference-cuts-dedekind-real-numbers`? There is a similar relation between multiplication and division, no?

Comment (lowasser) [reply src/real-numbers/transposition-cuts-dedekind-real-numbers.lagda.md:1]: That does require a lot more qualification (e.g. with positivity), but sure.

File: src/real-numbers/cauchy-completeness-dedekind-real-numbers.lagda.md [hunk 20]
```diff
@@ -0,0 +1,533 @@
+# Cauchy completeness of the metric space of real numbers
```
Comment (fredrik-bakke) [inline src/real-numbers/cauchy-completeness-dedekind-real-numbers.lagda.md:1]:
```suggestion
# Cauchy completeness of the Dedekind real numbers
```

File: src/real-numbers/cauchy-completeness-dedekind-real-numbers.lagda.md [hunk 21]
```diff
@@ -0,0 +1,533 @@
...
+open import real-numbers.transposition-addition-subtraction-cuts-dedekind-real-numbers
+open import real-numbers.upper-dedekind-real-numbers
+```
+
+</details>
+
+## Idea
+
+The
+[metric space of the real numbers](real-numbers.metric-space-of-real-numbers.md)
```
Comment (fredrik-bakke) [inline src/real-numbers/cauchy-completeness-dedekind-real-numbers.lagda.md:60]:
```suggestion
[metric space of the Dedekind real numbers](real-numbers.metric-space-of-real-numbers.md)
```

**Review by fredrik-bakke — APPROVED** [review]
